US05597848
Methyl 3-[4-(Phenylacetyl)phenyl]propionate
To a solution of 1.00 g of methyl 3-phenylpropionate in 6 ml of carbon disulfide, 1.62 g of anhydrous aluminium chloride was added under ice-cooling, and then 0.94 g of phenylacetyl chloride was added dropwise and stirring was continued at room temperature for 6 hours. The reaction mixture was poured into ice-water and extracted with methylene chloride. The methylene chloride layer was washed successively with water, aqueous potassium carbonate solution and water, dried, and then the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (methylene chloride:n-hexane=2:1) to afford 1.05 g of colorless crystals. Recrystallization from isopropyl ether gave colorless flakes, mp 77°~78° C.

reactant | methyl 3-phenylpropionate | 1.00 g | C1(=CC=CC=C1)CCC(=O)OC | C10H12O2
reactant | aluminium chloride | 1.62 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phenylacetyl chloride | 0.94 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | carbon disulfide | 6 ml | C(=S)=S | CS2
product | Methyl 3-[4-(Phenylacetyl)phenyl]propionate | 1.05 g | C1(=CC=CC=C1)CC(=O)C1=CC=C(C=C1)CCC(=O)OC | C18H18O3
